US04025505
The solution of 4.0 g of N-(4-nitro-o-tolyl)-4-carboxyphthalimide in 200 ml of ethyl acetate is hydrogenated over 1.0 g of platinum oxide at 2.5 atm. and about 40° for 50 minutes. The suspension obtained is evaporated, the residue taken up in 50 ml of dimethylformamide, the mixture filtered, the filtrate evaporated and the residue triturated with 100 ml of ethanol, to yield the N-(4-amino-o-tolyl)-4-carboxyphthalimide melting at 280°. Analogously the N-(4-amino-o-tolyl)-4-carbomethoxyphthalimide is prepared, melting after recrystallization from ethyl acetate-diethyl ether at 161°-162°.

reactant | N-(4-nitro-o-tolyl)-4-carboxyphthalimide | 4.0 g | [N+](=O)([O-])C1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)C(=O)O)=O | C16H10N2O6
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 1.0 g | [Pt]=O
product | N-(4-amino-o-tolyl)-4-carboxyphthalimide | NC1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)C(=O)O)=O | C16H12N2O4
